US06603012B2
Preparation of (RS)-2-(4,4-dimethyl-1,2,3,4-tetrahydroquinolin-6-yl)-heptanol
7 g of (RS)-ethyl 2-(4,4-dimethyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)-heptanoate were dissolved in 70 ml of toluene and treated, at 0° C., with 4.4 ml of a 10M solution of borane-dimethyl sulfide complex solution in toluene. The mixture was heated to 90° C. for 7 hours. After cooling to room temperature, the mixture was quenched by slow addition of 50 ml of 10% aqueous sodium carbonate solution. The mixture was stirred at room temperature for 30 min. and the phases were separated. The aqueous phase was extracted with two portion of 50 ml of ethyl acetate. The combined extracts were dried over MgSO4 and concentrated in vacuo. The product was purified by flash chromatography (SiO2, 25% ethyl acetate/hexanes). 1H NMR (CDCl3): 6.97 (d, J=2.0 Hz, 1H), 6.76 (dd, J=8.2, 2.0 Hz, 1H), 6.41 (d, J=8.2 Hz, 1H), 3.65 (dd, J=10.6, 5.9 Hz, 1H), 3.57 (dd, J=10.6, 7.9 Hz, 1H), 3.30-3.20 (m, 2H), 2.65-2.55 (m, 1H), 1.80-1.70 (m, 2H), 1.65-1.40 (m, 2H), 1.30-1.15 (m, 6H), 1.27 (s, 6H), 0.86 (t, J=6.6 Hz, 3H).

reactant | (RS)-ethyl 2-(4,4-dimethyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)-heptanoate | 7 g | CC1(CC(NC2=CC=C(C=C12)C(C(=O)OCC)CCCCC)=O)C | C20H29NO3
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-2-(4,4-dimethyl-1,2,3,4-tetrahydroquinolin-6-yl)-heptanol | CC1(CCNC2=CC=C(C=C12)C(CO)CCCCC)C | C18H29NO
